US04219559
A mixture of 28 parts of ethyl 4-{[(2-aminophenyl)aminothioxomethyl]amino}-1-piperidinecarboxylate, 112 parts of iodomethane and 240 parts of ethanol is stirred and refluxed for 8 hours. The reaction mixture is evaporated and the residue is taken up in water. The whole is alkalized with ammonium hydroxide and the product is extracted with dichloromethane. The extract is dried, filtered and evaporated. The residue is crystallized from a mixture of 2-propanol and 2,2'-oxybispropane. The product is filtered off and dried, yielding 7 parts (28%) of ethyl 4-(1H-benzimidazol-2-ylamino)-1-piperidinecarboxylate.

reactant | ethyl 4-{[(2-aminophenyl)aminothioxomethyl]amino}-1-piperidinecarboxylate | NC1=C(C=CC=C1)NC(=S)NC1CCN(CC1)C(=O)OCC | C15H22N4O2S
reactant | iodomethane | IC | CH3I
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4-(1H-benzimidazol-2-ylamino)-1-piperidinecarboxylate | 28% | N1C(=NC2=C1C=CC=C2)NC2CCN(CC2)C(=O)OCC | C15H20N4O2
